US08258160B2
Synthesis of 4-methyl-N-(pyridin-3-ylmethyl)-2-(2H-tetrazol-5-yl)thiazole-5-carboxamide
A solution of 2-(2-(benzyloxymethyl)-2H-tetrazol-5-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide (2.80 g, 6.65 mmol) in a mixture of methanol (20 mL) and hydrochloric acid (1 mL) was refluxed for 17 hours. The reaction mixture was cooled to ambient temperature and methanol was removed in vacuo. The residue was diluted with water (20 mL), basified with 1% sodium hydroxide and extracted with ethyl acetate (7 mL). The aqueous layer was cooled to 0° C. and acidified with 1% hydrochloric acid. The white solid obtained was filtered and dried in air to afford the title compound in 80% yield (1.60 g): mp>200° C. (decomposition); 1H NMR (300 MHz, DMSO-d6) δ 9.08 (t, J=5.8 Hz, 1H), 8.59 (br s, 1H), 8.51 (br s, 1H), 7.89-7.82 (m, 1H), 7.52-7.42 (m, 1H), 5.04 (br s, 1H), 4.47 (d, J=5.8 Hz, 2H), 2.64 (s, 3H); 13C NMR (75 MHz, DMSO-d6) δ 161.2, 156.6, 152.6, 147.9, 147.4, 137.4, 135.7, 128.2, 124.6, 41.1, 17.4; MS (ES−) m/z 300.3 (M−1).

reactant | 2-(2-(benzyloxymethyl)-2H-tetrazol-5-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 6.65 mmol, 2.80 g | C(C1=CC=CC=C1)OCN1N=C(N=N1)C=1SC(=C(N1)C)C(=O)NCC=1C=NC=CC1 | C20H19N7O2S
solvent | methanol | 20 mL | CO | CH4O
solvent | hydrochloric acid | 1 mL | Cl | ClH
product | 4-methyl-N-(pyridin-3-ylmethyl)-2-(2H-tetrazol-5-yl)thiazole-5-carboxamide | 80% yield | CC=1N=C(SC1C(=O)NCC=1C=NC=CC1)C=1N=NNN1 | C12H11N7OS
